US04379788
(a) 2-[4-(1,2-Epoxy-propoxy)-phenyl]-6-methoxy-3,4-dihydro-quinazolin-4-one
4.5 gm (16.7 mmols) of 2-(4-hydroxy-phenyl)-6-methoxy-3,4-dihydro-quinazolin-4-one were dissolved in 50 ml of sulfolane, and the solution was mixed, while stirring, with 2.55 gm (16.7 mmols+10%) of potassium carbonate. After a clear solution was formed, 4.5 ml of epibromohydrin were added, and the mixture was stirred at room temperature until the reaction was complete. The reaction mixture was poured into ice water, and the resulting crystalline precipitate was suction-filtered off, washed well with water and dried.

reactant | 2-(4-hydroxy-phenyl)-6-methoxy-3,4-dihydro-quinazolin-4-one | 16.7 mmols, 4.5 gm | OC1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(N1)=O)OC | C15H12N2O3
reactant | potassium carbonate | 16.7 mmols, 2.55 gm | C([O-])([O-])=O.[K+].[K+]
reactant | epibromohydrin | 4.5 ml | C(Br)C1CO1 | C3H5BrO
solvent | sulfolane | 50 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 2-[4-(1,2-Epoxy-propoxy)-phenyl]-6-methoxy-3,4-dihydro-quinazolin-4-one | O1C(C1C)OC1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(N1)=O)OC | C18H16N2O4
